* tb_mos_vth.spice -- gf180mcu 3.3 V MOS threshold characterization
*
* nfet_03v3 / pfet_03v3 (the 3.3 V flavor fixed by DR-0001 and the wave-1
* supply-scope decision) at the microamp-scale bias densities a reference core
* uses for its mirrors, cascodes and amplifier input pair.
*
* Extraction method: **constant-current threshold**. Each DUT is
* diode-connected (gate tied to drain, so Vds = Vgs and the device is in
* saturation) with its bulk tied to its source (Vsb = 0), and driven by a
* current source. Vth is read as |Vgs| at Id = 100 nA x (W/L) -- the usual
* 0.18 um constant-current criterion. The full Vgs(Id) curve is swept 10 nA to
* 1 mA so the sizing work downstream can read off overdrive at any bias, not
* only at the extraction point.
*
* Two channel lengths per polarity: L = 1 um (a compact mirror) and L = 4 um
* (a long-channel, better-matched mirror). Both at W = 10 um.
*
* Current is swept logarithmically by sweeping the exponent: a behavioural
* source delivers 10^v(ctrl) A and v(ctrl) is swept linearly (ngspice .dc has
* only linear increments).
*
* No supply rail: each DUT is referred to its own source node at ground, so
* the +/-10% supply axis of the PVT matrix has nothing to sweep here.
*
* This is a *fragment*, per sim/harness/README.md's testbench convention: no
* .include, .lib, .temp, .control, .end -- sim/harness supplies the PDK
* models, the corner .lib section(s), .temp and the measurement control
* block (see tb.json's "measure" map). run_mos_vth.py drives the full
* constant-current |Vth| extraction (DC sweep 10 nA .. 1 mA, interpolated at
* the current criterion, for every process/temperature point) directly
* against sim/harness's library (pdk.py, runner.py, report.py, corners.py);
* `python3 sim/run_corners.py device-mos-vth` runs this same fragment through
* the harness's generic single-grid CLI as a secondary, representative check
* (see tb.json's description).
*
* Run via: sim/device-mos-vth/run_mos_vth.py

Vctrl ctrl 0 dc -6

* ---- NMOS: current forced into the diode-connected gate/drain node ----
Bn1 0 gn1 I = pow(10, v(ctrl))
XN1 gn1 gn1 0 0 nfet_03v3 w=10u l=1u
Bn4 0 gn4 I = pow(10, v(ctrl))
XN4 gn4 gn4 0 0 nfet_03v3 w=10u l=4u

* ---- PMOS: source/bulk at ground, gate/drain pulled negative ----
Bp1 gp1 0 I = pow(10, v(ctrl))
XP1 gp1 gp1 0 0 pfet_03v3 w=10u l=1u
Bp4 gp4 0 I = pow(10, v(ctrl))
XP4 gp4 gp4 0 0 pfet_03v3 w=10u l=4u
